US04743677
On the other hand, 2 mmole of Boc-Ala, the 36th amino acid in the amino acid sequence, was dissolved in 5 ml ml of DCM. In an amino acid activating vessel, 2 ml of DCC (0.5M DCM solution) was added to the resulting solution They were reacted for 5 minutes. Thereafter, the reaction product was treated in the same manner as in the Boc-Phe After addition of DMF and subsequent concentration under a nitrogen gas stream, the resulting concentrate was transferred to a reaction vessel so as to conduct a reaction for 20 minutes. The reaction mixture was then washed with 8 ml of DCM (6 times, each, for 20 seconds) and filtered to obtain Boc-Ala-Phe-resin.

reactant | Boc-Ala | 2 mmole | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | DCC | 0.5M, 2 ml | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Boc-Phe | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Boc-Ala-Phe | N([C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C17H24N2O5
